US04505905
A solution of 150 mg of 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, and 130 mg of anisole in 1 mL of trifluoroacetic acid was stirred at ambient temperature for 15 min. The solvent was then removed by a stream of nitrogen leaving a residue which was crystallized from ether to afford 85 mg (92%) of 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid as colorless crystals, mp 150° to 152°. IR (Nujol): 1640, 1660, 1785, 3150 cm-1 ; NMR (CDCl3 /DMSO-d6): δ 1.93 (3H, s), 2.8-3.0 (5H, m), 3.1-3.4 (4H, m), 4.43 (1H, m), and 7.43 (1H, m). HRMS: The molecular ion (m/z 269) was not observed; however, a major fragment corresponding to loss of ketene from the molecular ion was mass measured: Calcd for C10H13O3NS, 227.0615; found, 227.0616.

reactant | 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 150 mg | C(C)(=O)NCCSC1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25NO4S
reactant | anisole | 130 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid | 85 mg, 92% | C(C)(=O)NCCSC1=C(C2C(CC2C1)=O)C(=O)O | C12H15NO4S
